US07179801B2
To a solution of 4-aminomethyl-1-propyl-5-tritylaminopyrazole (9.6 g) in a mixture of ethyl acetate (150 ml) and methanol (30 ml) was added 4N hydrochloric acid in ethyl acetate (24.2 ml), and the mixture was stirred at room temperature for 2 hours. The resulting precipitate was collected by filtration and dried in vacuo to give 4-aminomethyl-1-propyl-5-aminopyrazole dihydrochloride (3.3 g).

reactant | 4-aminomethyl-1-propyl-5-tritylaminopyrazole | 9.6 g | NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C26H28N4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
solvent | ethyl acetate | 24.2 ml | C(C)(=O)OCC | C4H8O2
product | 4-aminomethyl-1-propyl-5-aminopyrazole dihydrochloride | 3.3 g | Cl.Cl.NCC=1C=NN(C1N)CCC | InChI=1S/C7H14N4.2ClH/c1-2-3-11-7(9)6(4-8)5-10-11;;/h5H,2-4,8-9H2,1H3;2*1H
